US05158950
a) Isopropyl 2-(1,3-dithiol-2-ylidene)-2-[N-(2-carboxyphenyl)carbamoyl]acetate
Isopropyl 2-(1,3-dithiol-2-ylidene)-2-(ethoxycarbonyloxy-carbonyl)acetate (15.9 g) and anthranilic acid (14 dissolved in DMF (100 ml). The mixture was stirred at 60° C. for hrs. The reaction mixture was poured into ice-water. The solid formed was filtered and recrystallized from ethyl acetate to give the titled compound. (5.6 g, 30.7%)

reactant | Isopropyl 2-(1,3-dithiol-2-ylidene)-2-(ethoxycarbonyloxy-carbonyl)acetate | 15.9 g | S1C(SC=C1)=C(C(=O)OC(C)C)C(=O)OC(=O)OCC | C12H14O6S2
reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Isopropyl 2-(1,3-dithiol-2-ylidene)-2-[N-(2-carboxyphenyl)carbamoyl]acetate | S1C(SC=C1)=C(C(=O)OC(C)C)C(NC1=C(C=CC=C1)C(=O)O)=O | C16H15NO5S2
